US06313127B1
A solution of 1-(4-pyridyl)piperazine (0.49 g) and triethylamine (0.7 ml) in dry dichloromethane (20 ml) was treated slowly with a solution of 4-bromophenylsulphonyl chloride (0.77 g) in dry dichloromethane (10 ml). The reaction mixture was then stirred under argon for 2 hours. The dichloromethane solvent was removed by evaporation and the residue dissolved in ethyl acetate. The organic extracts were washed with water, brine, dried (MgSO4) and evaporated to yield a white crystalline solid which was recrystallised from ethyl acetate to give 1-(4-pyridyl)-4-(4-bromophenylsulphonyl)piperazine (0.84 g) as a solid, m.p. 199-200° C.: microanalysis, found: C, 47.3; H, 4.1; N, 10.9%; C15H16BrN3O2S requires: C, 47.1; H, 4.22; N, 11.0%; NMR: (CDCl3) 3.13(t,4H), 3.42(t,4H), 6.62(dd,2H), 7.67(q,4H), 8.29(d,2H): MS: m/z 382 (MH)−.

reactant | 1-(4-pyridyl)piperazine | 0.49 g | N1=CC=C(C=C1)N1CCNCC1 | C9H13N3
reactant | triethylamine | 0.7 ml | C(C)N(CC)CC | C6H15N
reactant | 4-bromophenylsulphonyl chloride | 0.77 g | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1-(4-pyridyl)-4-(4-bromophenylsulphonyl)piperazine | 0.84 g | N1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)Br | C15H16BrN3O2S
